US07846928B2
Preparation of 4-Iodo-1-methyl-1H-pyrazolo[3,4-b]pyridine
227 mg of 2-fluoro-4-iodo-pyridine-3-carbaldehyde (0.9 mmol, 1 eq.; prepared as described in J. Org. Chem. 1993, 58, 7832) were dissolved in 3.6 mL 1-PrOH, treated with 72 μL methyl hydrazine (1.36 mmol, 1.5 eq.) and heated to 100° C. for 30 min (Biotage Initiator 60®). The reaction mixture was concentrated in vacuo, the residue was partioned between water and ethyl acetate, the aq. layer was extracted with ethyl acetate, the combined organic layers were dried and concentrated in vacuo to provide the crude target compound.

reactant | 2-fluoro-4-iodo-pyridine-3-carbaldehyde | 0.9 mmol, 227 mg, 1 eq. | FC1=NC=CC(=C1C=O)I | C6H3FINO
reactant | methyl hydrazine | 1.36 mmol, 72 μL, 1.5 eq. | CNN | CH6N2
product | 4-Iodo-1-methyl-1H-pyrazolo[3,4-b]pyridine | IC1=C2C(=NC=C1)N(N=C2)C | C7H6IN3
